US04421690
By an alternative procedure, a mixture of 0.205 g (0.00025 mol) of [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluoro-21-iodocholest-5-ene, 0.987 g (0.00030 mol) of tri-n-butyltin hydride and 3 mL of tetrahydrofuran were stirred at 25° C. for 18 hr under an argon atmosphere. The mixture was evaporated to dryness and the residue was purified by chromatography on 0.06-0.20 mm silica gel to yield [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-ene, [α]D18 +2° (c 1, CHCl3).

reactant | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluoro-21-iodocholest-5-ene | 0.00025 mol, 0.205 g | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)OC(C)OCC)(F)F)CI)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H67F2IO6
reactant | tri-n-butyltin hydride | 0.00030 mol, 0.987 g | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-ene | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)OC(C)OCC)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H68F2O6
